US07115611B2
D] [5-(4-Trifluoromethyl-phenyl)-pyrazin-2-yl]-methanol
0.585 g (2.07 mmol) of the above synthesized 5-(4-trifluoromethyl-phenyl)-pyrazine-2-carboxylic acid methyl ester in 10 ml of abs. THF was cooled down to −30° C. and reacted with 5.18 ml of DIBAL-H-solution (1.2 M in toluene, 3 eq.) for 10 min. The reaction was warmed up during 2.5 h to 10° C. and stirred 1 h at RT. Careful quenching at 0° C. with saturated NaCl solution, twofold extraction with ether, washing with brine, drying over sodium sulfate, and evaporation of the solvents left a crude product which was purified by flash chromatography (SiO2, heptane/AcOEt=4/1) to deliver finally 0.325 g of the title compound as yellow solid.

reactant | 5-(4-trifluoromethyl-phenyl)-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(N=C1)C1=CC=C(C=C1)C(F)(F)F | C13H9F3N2O2
reactant | DIBAL-H | 1.2 M, 5.18 ml, 3 eq. | CC(C)C[AlH]CC(C)C
solvent | THF | C1CCOC1 | C4H8O
product | [5-(4-Trifluoromethyl-phenyl)-pyrazin-2-yl]-methanol | FC(C1=CC=C(C=C1)C=1N=CC(=NC1)CO)(F)F | C12H9F3N2O
